US04080471
Preparation of 1-(p-benzyloxyphenoxy)-2,3-epoxypropane
25 g of p-benzyloxyphenol, 165 ml of epichlorohydrin, and 34.5 g of potassium carbonate were refluxed while stirring for 4 hours. The mixture was cooled down to room temperature and filtered, whereupon it was evaporated to dryness. The product was recrystallized from the smallest possible amount of diisopropyl ether. M.p. 68° C.

reactant | p-benzyloxyphenol | 25 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | epichlorohydrin | 165 ml | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 34.5 g | C([O-])([O-])=O.[K+].[K+]
product | 1-(p-benzyloxyphenoxy)-2,3-epoxypropane | C(C1=CC=CC=C1)OC1=CC=C(OCC2CO2)C=C1 | C16H16O3
